* source PR1
R_R1         N13241 N11142  15k TC=0,0 
V_V1         N11142 0 5Vdc
R_R4         N11142 N55907  100 TC=0,0 
R_R5         N27119 N41311  10k TC=0,0 
Q_Q3         N23866 N18917 N13241 QBC856B 
Q_Q4         N17645 N27119 N13241 QBC856B 
Q_Q9         N17645 N17645 N55630 QBC846B 
Q_Q8         N23866 N17645 N55700 QBC846B 
R_R6         0 N18917  47k TC=0,0 
R_R8         N192121 N19228  15k TC=0,0 
V_V3         0 N17659 5Vdc
Q_Q5         N27578 N23866 N17659 QBC846B 
Q_Q11         N11142 N26865 N19228 QBC846B 
Q_Q10         N17659 N26902 N19228 QBC856B 
R_R10         N26902 N17659  9.1k TC=0,0 
R_R11         N11142 N26865  9.1k TC=0,0 
C_C1         N27119 0  100p  TC=0,0 
R_R12         N18917 N27578  47k TC=0,0 
X_P1         N27578 N27578 N41311 POT PARAMS: SET=1 VALUE=10k
R_R13         N416411 N41671  3.9k TC=0,0 
X_P2         N41671 N41581 0 POT PARAMS: SET=1 VALUE=10k
C_C2         N27578 N416411  1u  TC=0,0 
R_R16         N27119 N41311  82k TC=0,0 
C_C3         N27119 0  470p  TC=0,0 
D_D3         N26865 N41581 D1N4148 
D_D4         N41581 N26902 D1N4148 
D_LED1         N11142 N536461 MLED81
R_R14         N536461 0  330 TC=0,0 
R_R15         N17659 N540281  330 TC=0,0 
D_LED2         0 N540281 MLED81
C_C4         N27119 0  100p  TC=0,0 
R_R17         0 N192121  2k TC=0,0 
R_R18         N17659 N55630  51 TC=0,0 
R_R19         N17659 N55700  51 TC=0,0 
Q_Q12         N27578 N56042 N55907 QBC856B 
D_D5         N11142 N559671 D1N4148 
D_D6         N559671 N56042 D1N4148 
R_R20         0 N56042  3.9k TC=0,0 
